datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CC[O:72][C:11]([CH:10]([C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12]1CCOCC1)=[O:62].COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]([C:21](C[N+]1=CC=C(OC)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1C=C(OC)C=C2)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C1C[N+]2(C[C:21]3=[C:22]([O-:23])O[C:32]4=[C:31]([CH:20]3[H:10])[CH:36]=[CH:35][CH:34]=[CH:33]4)CCN1CC2.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.COC1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1>>COC1=CC=C([C:11]([CH:10]([C:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:43])=[O:52])[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[C:20]([C:31]3=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12"
"C1CC[O:62][CH:11]([H:10])[O:12]C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>C1CC[O:62][CH:11]=[O+:12]C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C[Ti:11]23456789([CH2:10]C%10=CC=CC=C%10)(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>C1=CC=C(C[Ti+:11]23456789(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CC[O:33][C:31]([CH:20]([CH2:10]C1=CC=CC=C1)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[Si:81](C)(C)/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si:81](C)(C)[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1=CC=C(C[N:10]=[C:11]2[NH:12]CC[NH:62]2)C=C1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10](CC2=CC=CC=C2)[C:11]2=[NH+:12]CC[NH:62]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"COC(=O)CC[C:11](=[CH2:10])[N:12](O[Si](C)(C)C)O[Si](C)(C)C.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>COC(=O)CC[C:11]([CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>C[C:10]([C:11]#[N:12])([CH:20](C1=CC=CC=C1)C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11](=[CH2:10])CC1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11]1CCCCC1)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
